US04042592
3,9-dihydroxy-2,10-dimethoxy-13-methyldibenzo[a,g] quinolizinium bromide;
The procedure of Example 1 is repeated except that 1-(1-hydroxyiminoethyl)-6-hydroxy-7-methoxyisoquinoline and 2-hydroxy-3-methoxybenzyl bromide are used as the starting materials. m.p. 211°-217° C. (with decomposition).

reactant | 1-(1-hydroxyiminoethyl)-6-hydroxy-7-methoxyisoquinoline | ON=C(C)C1=NC=CC2=CC(=C(C=C12)OC)O | C12H12N2O3
reactant | 2-hydroxy-3-methoxybenzyl bromide | OC1=C(CBr)C=CC=C1OC | C8H9BrO2
product | 3,9-dihydroxy-2,10-dimethoxy-13-methyldibenzo[a,g] quinolizinium bromide | [Br-].OC1=CC=2C(=C3C(=C4C(=C[N+]3=CC2)C(=C(C=C4)OC)O)C)C=C1OC | InChI=1S/C20H17NO4.BrH/c1-11-13-4-5-17(24-2)20(23)15(13)10-21-7-6-12-8-16(22)18(25-3)9-14(12)19(11)21;/h4-10H,1-3H3,(H,22,23);1H
